US04279918
1-acetyl-2-(4-aminobenzyl)pyrrolidine
Hydrogenate 3.3 g of 1-acetyl-2-(4-nitrobenzyl)pyrrolidine with platinum/hydrogen in ethanol. Filter the catalyst from the hydrogenated product and concentrate the filtrate to obtain the title compound as a yellowish liquid.

reactant | 1-acetyl-2-(4-nitrobenzyl)pyrrolidine | 3.3 g | C(C)(=O)N1C(CCC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C13H16N2O3
solvent | ethanol | C(C)O | C2H6O
catalyst | platinum hydrogen | [Pt].[H][H]
product | 1-acetyl-2-(4-aminobenzyl)pyrrolidine | C(C)(=O)N1C(CCC1)CC1=CC=C(C=C1)N | C13H18N2O
